US06645971B1
Preparation of 1-(3-Hydroxypropyl)-3-(1-benzylpiperidin-4-yl)-4-phenyl-3,4-dihydro-2(1H) -quinazolinone
In similar way as in Preparation example 21, the title compound was prepared from 3-(1-benzylpiperidin-4-yl)-4-phenyl-3,4-dihydro-2(1H)-quinazolinone and 3-(tetrahydropyran-2-yl)oxypropyl bromide.

reactant | 3-(1-benzylpiperidin-4-yl)-4-phenyl-3,4-dihydro-2(1H)-quinazolinone | C(C1=CC=CC=C1)N1CCC(CC1)N1C(NC2=CC=CC=C2C1C1=CC=CC=C1)=O | C26H27N3O
reactant | 3-(tetrahydropyran-2-yl)oxypropyl bromide | O1C(CCCC1)OCCCBr | C8H15BrO2
product | 1-(3-Hydroxypropyl)-3-(1-benzylpiperidin-4-yl)-4-phenyl-3,4-dihydro-2(1H) -quinazolinone | OCCCN1C(N(C(C2=CC=CC=C12)C1=CC=CC=C1)C1CCN(CC1)CC1=CC=CC=C1)=O | C29H33N3O2
